US04372887
3,4,5,6,7,8-Hexahydro-2-(N-phenylphenetylamino)azocine hydrochloride hemihydrate
Phosphorus oxychloride (6.13 g., 0.04 mole) is added in one portion to a stirred mixture of 2-azacyclooctanone (5.1 g., 0.04 mole) and N-phenylphenethylamine (7.9 g., 0.04 mole) in 100 ml. of 1,2-dichloroethane. The mixture is stirred for 16 hr., poured into crushed ice and made basic with 10 N potassium hydroxide. The 1,2-dichloroethane layer is separated, washed with 100 ml. of 1.5 N hydrochloric acid and then with a 100 ml. portion of water. After drying over magnesium sulfate, the 1,2-dichloroethane fraction is concentrated under reduced pressure to provide 10.6 g. of residue which is stirred with water, extracted with ether and then made basic with potassium hydroxide and again extracted with ether. The ethereal extract of the basic mixture is dried (magnesium sulfate) and concentrated under reduced pressure. Distillation of the resulting residue yields 3.5 g., b.p. 152°-170° C./0.15 mm. Hg. of the azocine product free base. The free base is converted to the hydrochloride in ethanol by the addition of ethanolic hydrogen chloride and is recovered by addition of ether affording analytically pure 3,4,5,6,7,8-hexahydro-2-(N-phenylphenethylamino)azocine hydrochloride hemihydrate, m.p. 165°-168° C. (corr.).

reactant | Phosphorus oxychloride | 0.04 mole, 6.13 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-azacyclooctanone | 0.04 mole, 5.1 g | C1(NCCCCCC1)=O | C7H13NO
reactant | N-phenylphenethylamine | 0.04 mole, 7.9 g | C1(=CC=CC=C1)NCCC1=CC=CC=C1 | C14H15N
reactant | potassium hydroxide | 10 N | [OH-].[K+]
reactant | azocine | N1=CC=CC=CC=C1 | C7H7N
reactant | hydrochloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 3,4,5,6,7,8-Hexahydro-2-(N-phenylphenetylamino)azocine hydrochloride hemihydrate | O.Cl.C1(=CC=CC=C1)N(C1=NCCCCCC1)C1=CC=C(C=C1)OCC.C1(=CC=CC=C1)N(C1=CC=C(C=C1)OCC)C1=NCCCCCC1.Cl | InChI=1S/2C21H26N2O.2ClH.H2O/c2*1-2-24-20-15-13-19(14-16-20)23(18-10-6-5-7-11-18)21-12-8-3-4-9-17-22-21;;;/h2*5-7,10-11,13-16H,2-4,8-9,12,17H2,1H3;2*1H;1H2
